.subckt AND4_1X A B C D Y VDD VSS VNW VPW
MP1 VDD A YB  VNW p m=1 L=180n W=1800n
MP2 VDD B YB  VNW p m=1 L=180n W=1800n
MP3 VDD C YB  VNW p m=1 L=180n W=1800n
MP4 VDD D YB  VNW p m=1 L=180n W=1800n
MN1 VSS A W1  VPW n m=1 L=180n W=1200n
MN2 W1  B W2  VPW n m=1 L=180n W=1200n
MN3 W2  C W3  VPW n m=1 L=180n W=1200n
MN4 W3  D YB  VPW n m=1 L=180n W=1200n
MP5 VDD YB Y  VNW p m=1 L=180n W=1800n
MN5 VSS YB Y  VPW n m=1 L=180n W=1200n
.ends
